US08067408B2
NaBH4 (1.99 g, 52.5 mmol) was cautiously added to a solution of NiCl2 (1.36 g, 10.5 mmol), Boc2O (4.58 g, 21.0 mmol) and 3-bromo-5-fluorobenzonitrile (2.10 g, 10.5 mmol) in absolute ethanol (30 mL) at 0° C. (vigorous reaction with the formation of a black precipitate). Once the reaction had subsided the mixture was left to stir at room temperature for 30 min. Ethanol was removed under reduced pressure and the precipitate was dissolved in EtOAc, filtered and repeatedly washed with EtOAc. The combined organic phase was washed with saturated NaHCO3, and dried over Na2SO4. After removing the solvent, the product was purified by flash column chromatography to yield 1,1-dimethylethyl [(3-bromo-5-fluorophenyl)methyl]carbamate (2.20 g, 69%). 1H NMR (400 MHz, CDCl3): δ 1.46 (S, 9 H), 4.28-4.32 (m, 2 H), 4.87 (br, 1 H), 6.93-7.29 (m, 3 H); 13C NMR (100 MHz, CDCl3): δ 20.3, 43.6, 44.1, 79.7, 80.0, 113.0, 114.0, 117.7, 122.5, 126.0, 123.0, 141.7, 155.9, 161.5, 164.0.

reactant | NaBH4 | 52.5 mmol, 1.99 g | [BH4-].[Na+]
reactant | Boc2O | 21.0 mmol, 4.58 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-bromo-5-fluorobenzonitrile | 10.5 mmol, 2.10 g | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | NiCl2 | 10.5 mmol, 1.36 g | Cl[Ni]Cl
product | 1,1-dimethylethyl [(3-bromo-5-fluorophenyl)methyl]carbamate | 2.20 g, 69% | BrC=1C=C(C=C(C1)F)CNC(OC(C)(C)C)=O | C12H15BrFNO2
